US07179801B2
A mixture of ethyl 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionate (20 g) and 1 mol/l aqueous sodium hydroxide solution (100 ml) was stirred at room temperature for 16 hours. The reaction mixture was neutralized with concentrated hydrochloric acid, and the mixture was concentrated in vacuo. The residue was dissolved in methanol, and the insoluble sodium chloride was removed by filtration. The filtrate was concentrated in vacuo to give crude 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid as an oil. This product was used in the next step without further purification.

reactant | ethyl 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionate | 20 g | N1=CC(=C2N1CCCN2)CCC(=O)OCC | C11H17N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 mol/l, 100 ml | [OH-].[Na+]
product | 3-(4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)propionic acid | N1=CC(=C2N1CCCN2)CCC(=O)O | C9H13N3O2
